US08030334B2
3-Bromopyridine and N-Boc-5-methoxy-indole-2-boronic acid are processed according to the procedure described in Example 91 to give 5-methoxy-2-pyridin-3-yl-1H-indole. HRMS (ESI) m/z 225.1026 [(M+H)+ Calcd for C14H13N2O: 225.1028]

reactant | 3-Bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | N-Boc-5-methoxy-indole-2-boronic acid | C(=O)(OC(C)(C)C)N1C(=CC2=CC(=CC=C12)OC)B(O)O | C14H18BNO5
product | 5-methoxy-2-pyridin-3-yl-1H-indole | COC=1C=C2C=C(NC2=CC1)C=1C=NC=CC1 | C14H12N2O
